US09353075B2
Step 2. Preparation of ethyl (2S*,3R*)-2-amino-3-hydroxy-pentanoate
In a pear flask, at rt, ethyl (2S*,3R*)-2-(dibenzylamino)-3-hydroxy-pentanoate (0.165 g, 0.48 mmol) was dissolved in EtOH (12 mL) and passed through the H-Cube® hydrogenator flow reactor, using 10% Pd/C as catalyst [flow:1.0 mL/min; P=1.0 bar, T=70° C.]. After evaporation of the solvent, the title compound was obtained as yellowish oil and used without further purification in the following step. MS (ESI) m/z: 162 [M−H]+.

reactant | ethyl (2S*,3R*)-2-(dibenzylamino)-3-hydroxy-pentanoate | 0.48 mmol, 0.165 g | C(C1=CC=CC=C1)N([C@H](C(=O)OCC)[C@@H](CC)O)CC1=CC=CC=C1 | C21H27NO3
solvent | EtOH | 12 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | ethyl (2S*,3R*)-2-amino-3-hydroxy-pentanoate | N[C@H](C(=O)OCC)[C@@H](CC)O | C7H15NO3
